US05274135
4-Mesyloxybenzocyclobutene is prepared by reaction between 4-hydroxybenzocyclobutene and mesyl chloride (methanesulfonyl chloride) in pyridine, using excess pyridine as solvent. The mesyloxy compound is reacted with maleimide, otherwise as in paragraph (a), to produce 4-(N-maleimidyl)benzocyclobutene, which is hydrolyzed with hydrazine hydrate to 4-aminobenzocyclobutene, otherwise as in paragraph (b).

reactant | 4-hydroxybenzocyclobutene | OC1=C2C(CC2)=CC=C1 | C8H8O
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Mesyloxybenzocyclobutene | S(=O)(=O)(C)OC1=C2C(CC2)=CC=C1 | C9H10O3S
